US09421205B2
(d) Methyl 2-(2-chloropyridin-3-yl)acetate (I118)
Acetyl chloride (0.651 mL, 9.16 mmol) was added to a suspension of (2-chloropyridin-3-yl)acetic acid (I117) (1.048 g, 6.108 mmol) in MeOH (30 mL). The mixture was heated at reflux for 20 hours. The volatiles were removed in vacuo and the residue partitioned between DCM (100 mL) and sat. NaHCO3 (100 mL). The layers were separated and the aqueous layer extracted with DCM (2×100 mL). The combined organic layers were washed with brine (100 mL), dried (Na2SO4) and the solvent removed under reduced pressure to yield an oil which was purified by column chromatography on silica gel (0-40% EtOAc in petroleum benzine 40-60° C.) to afford the title compound (I118) (0.863 g, 76%) as a pale yellow oil; 1H NMR (400 MHz, d6-DMSO) δ 8.34 (dd, J=4.8, 1.9 Hz, 1H), 7.88 (dd, J=7.5, 1.9 Hz, 1H), 7.43 (dd, J=7.5, 4.8 Hz, 1H), 3.86 (s, 2H), 3.65 (s, 3H). LCMS Method C: rt 5.04 min; m/z 186 [M+H]+.

reactant | Acetyl chloride | 9.16 mmol, 0.651 mL | C(C)(=O)Cl | C2H3ClO
reactant | (2-chloropyridin-3-yl)acetic acid | 6.108 mmol, 1.048 g | ClC1=NC=CC=C1CC(=O)O | C7H6ClNO2
solvent | MeOH | 30 mL | CO | CH4O
product | Methyl 2-(2-chloropyridin-3-yl)acetate | ClC1=NC=CC=C1CC(=O)OC | C8H8ClNO2
